US08835629B2
Preparation of 1-[4,6-Bis-(4-methoxybenzylamino)-{1,3,5}-triazin-2-yl-amino]-imidazolidine-2,4-dione (compound 1)
To a stirred suspension of 1-(4,6-dichloro-[1,3,5]-triazin-2-yl-amino)-imidazolidine-2,4-dione (770 mg, 2.93 mmol) and potassium carbonate (2.42 g, 17.6 mmol) in acetonitrile (20 mL) at room temperature was added 4-methoxybenzylamine (0.96 mL, 7.32 mmol). The reaction mixture was stirred for 24 h at room temperature under an atmosphere of nitrogen and then the solvent was removed under reduced pressure. The residue was extracted with ethyl acetate and the ethyl acetate was dried (MgSO4) and evaporated to give the crude product which was purified by flash chromatography on silica using CH2Cl2/MeOH (50:1→10:1) as eluent. The pure product was isolated as a colourless solid (587 mg, 43%). 1H NMR (d6 DMSO): δ=3.67 (s, 6H); 3.96 and 4.05 (2s, total 2H); 4.20 and 4.32 (2s, total 4H); 6.80 (bs, 4H); 7.13-7.39 (m, 6H); 8.67, 8.85 and 8.99 (2s, total 1H); 11.0 (bs, 1H). Mass spectrum (ES+) 465 (M+H).

reactant | 1-(4,6-dichloro-[1,3,5]-triazin-2-yl-amino)-imidazolidine-2,4-dione | 2.93 mmol, 770 mg | ClC1=NC(=NC(=N1)Cl)NN1C(NC(C1)=O)=O | C6H4Cl2N6O2
reactant | potassium carbonate | 17.6 mmol, 2.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzylamine | 7.32 mmol, 0.96 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-[4,6-Bis-(4-methoxybenzylamino)-{1,3,5}-triazin-2-yl-amino]-imidazolidine-2,4-dione | 587 mg, 43% | COC1=CC=C(CNC2=NC(=NC(=N2)NCC2=CC=C(C=C2)OC)NN2C(NC(C2)=O)=O)C=C1 | C22H24N8O4
